US05977097
To a solution of 4-nitrobenzyl (1R,5R,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-(diphenylphosphoryloxy)-1-carbapen-2-em-3-carboxylate (0.58 g) in anhydrous acetonitrile (10 ml), N,N-diisopropylethylamine (0.17 ml) and a solution of (2S,4S)-4-mercapto-1-(4-nitrobenzyloxycarbonyl)-2-[(3S)-3-(4-nitrobenzyloxycarbonylacetimidoylaminomethyl)pyrrolidin-1-ylcarbonyl]pyrrolidine (0.93 g) in anhydrous acetonitrile (10 ml) were added while stirring in an ice bath. The resulting mixture was stirred overnight at 0° C. To the reaction mixture, ethyl acetate was added. The resulting mixture was washed with water and saturated saline solution, dried over anhydrous sodium sulfate and then concentrated by evaporation under reduced pressure. The residue was purified by chromatography through a silica gel column (ethyl acetate/methanol=9/1), whereby 4-nitrobenzyl (1R,5S,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-[(2S,4S)-I -(4-nitrobenzyloxycarbonyl)-2-[(3S)-3-(4-nitrobenzyloxycarbonylacetimidoylaminomethyl)pyrrolidin-1-ylcarbonyl]pyrrolidin-4-ylthio]-1-carbapen-2-em-3-carboxylate (0.61 g) was obtained.

reactant | 4-nitrobenzyl (1R,5R,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-(diphenylphosphoryloxy)-1-carbapen-2-em-3-carboxylate | 0.58 g | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)OP(=O)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C29H27N2O8P
reactant | (2S,4S)-4-mercapto-1-(4-nitrobenzyloxycarbonyl)-2-[(3S)-3-(4-nitrobenzyloxycarbonylacetimidoylaminomethyl)pyrrolidin-1-ylcarbonyl]pyrrolidine | 0.93 g | S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)N1C[C@@H](CC1)CNC(CC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=N | C28H32N6O9S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | N,N-diisopropylethylamine | 0.17 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4-nitrobenzyl (1R,5S,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-[(2S,4S)-I -(4-nitrobenzyloxycarbonyl)-2-[(3S)-3-(4-nitrobenzyloxycarbonylacetimidoylaminomethyl)pyrrolidin-1-ylcarbonyl]pyrrolidin-4-ylthio]-1-carbapen-2-em-3-carboxylate | 0.61 g | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)N2C[C@@H](CC2)CNC(CC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])=N)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C45H48N8O15S
